US06384080B1
A solution of di-tert-butyl dicarbonate (5.44 g) in dioxane (10 mL) was added dropwise to a solution of (S)-3-benzyloxycarbonylaminopyrrolidine (3.66 g) in dioxane (10 mL) under cooling on an ice bath. The reaction mixture was stirred at ambient temperature overnight, then the reaction was quenched by addition of 3-(N,N-dimethylamino)propylamine (5 mL). The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and 3.6% hydrochloric acid. The organic layer was washed with an aqueous saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography eluting with 30% ethyl acetate in hexane to give (S)-3-benzyloxycarbonylamino-1-tert-butoxycarbonylpyrrolidine (1.26 g) as an oil.

reactant | di-tert-butyl dicarbonate | 5.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-3-benzyloxycarbonylaminopyrrolidine | 3.66 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CNCC1 | C12H16N2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-3-benzyloxycarbonylamino-1-tert-butoxycarbonylpyrrolidine | 1.26 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
